### PR TITLE
Some computations for different notions of equivalence

### PR DESCRIPTION
**Pull request by fredrik-bakke**
### Overview
- Move lemmas regarding `precomp` and `postcomp` in `equivalences` to `functoriality-function-types`
- Fill in lemmas so that `functoriality-dependent-function-types` and `functoriality-function-types` are similar
- Factor invertible maps into their own file `invertible-maps`
- Rename `has-inverse` to `is-invertible` (this makes the naming scheme consistent for all the different notions of equivalence. I feel like we've had a discussion about this before, and if you disagree with this change it is easy to revert.)
- Clean up `logical-equivalences`
- Compute the fibers of `iff-equiv`
- Characterize equality of logical equivalences
- Characterize equality of invertible maps
- Characterize equality of involutions
- Characterize equality of fibered equivalences and equivalences over a map
- Show that `htpy-lifting-square` is reflexive (it remains to show that the total space is contractible, but I'm at a bit of a loss for how to proceed with that)
- Add some miscellaneous path-algebra lemmas (this file needs some refactoring)
- Define local maps in `orthogonal-factorization-systems.local-maps`
- Redefine the pullback-hom in terms of fibered maps instead
- Compute the fibers of `pullback-hom`

Builds on #432.

### CODE REVIEW

File: src/foundation-core/functoriality-function-types.lagda.md [hunk 1]
```diff
@@ -108,6 +160,140 @@ pr2 (equiv-postcomp A e) =
...
+    is-equiv-is-equiv-precomp f is-equiv-precomp-f =
+      is-equiv-is-equiv-precomp-subuniverse
+        ( λ l → l1 ⊔ l2)
+        ( λ l X → A → B)
+        ( A , f)
+        ( B , f)
+        ( f)
+        ( λ l C → is-equiv-precomp-f l (pr1 C))
+```
+
```
Comment (EgbertRijke) [inline src/foundation-core/functoriality-function-types.lagda.md:268]: This code block has no section title.

Also, it feels like the things in the following code block don't really belong in this file, because they are about propositions, sets, and truncated types.

File: src/foundation-core/invertible-maps.lagda.md [hunk 2]
```diff
@@ -0,0 +1,145 @@
...
+## Idea
+
+An **inverse** for a map `f : A → B` is a map `g : B → A` equipped with
+[homotopies](foundation-core.homotopies.md) ` (f ∘ g) ~ id` and `(g ∘ f) ~ id`.
+Such data, however is [structure](foundation.structure.md) on the map `f`, and
+not generally a [property](foundation-core.propositions.md).
+
+## Definition
+
+### The type of inverse proofs
```
Comment (EgbertRijke) [inline src/foundation-core/invertible-maps.lagda.md:31]: I would say: ``### The predicate that a map `g` is an inverse of a map `f` ``

The phrase "The type of inverse proofs" looks so clumsy

Comment (EgbertRijke) [inline src/foundation-core/invertible-maps.lagda.md:31]:
```suggestion
### The predicate that a map `g` is an inverse of a map `f`
```

File: src/foundation-core/invertible-maps.lagda.md [hunk 3]
```diff
@@ -0,0 +1,145 @@
...
+  is-section-is-inverse :
+    {f : A → B} {g : B → A} → is-inverse f g → (f ∘ g) ~ id
+  is-section-is-inverse = pr1
+
+  is-retraction-is-inverse :
+    {f : A → B} {g : B → A} → is-inverse f g → (g ∘ f) ~ id
+  is-retraction-is-inverse = pr2
+```
+
+### The type of inverses of a map
```
Comment (EgbertRijke) [inline src/foundation-core/invertible-maps.lagda.md:50]:
```suggestion
### The predicate that a map `f` is invertible
```

File: src/foundation-core/invertible-maps.lagda.md [hunk 4]
```diff
@@ -0,0 +1,145 @@
...
+  is-retraction-map-invertible-map :
+    (f : invertible-map A B) →
+    (map-invertible-map f ∘ map-inv-invertible-map f) ~ id
+  is-retraction-map-invertible-map =
+    is-retraction-is-invertible ∘ is-invertible-map-invertible-map
+```
+
+## Properties
+
+### The inverse invertible map
```
Comment (EgbertRijke) [inline src/foundation-core/invertible-maps.lagda.md:118]:
```suggestion
### The invertible inverse of an invertible map
```

File: src/foundation/equivalences.lagda.md [hunk 5]
```diff
@@ -424,13 +296,19 @@ module _
 
 ### The groupoid laws for equivalences
 
+#### Equivalence composition is associative
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:299]:
```suggestion
#### Composition of equivalences is associative
```

File: src/foundation/equivalences.lagda.md [hunk 6]
```diff
@@ -424,13 +296,19 @@ module _
...
+
 ```agda
 associative-comp-equiv :
   {l1 l2 l3 l4 : Level} {A : UU l1} {B : UU l2} {C : UU l3} {D : UU l4} →
   (e : A ≃ B) (f : B ≃ C) (g : C ≃ D) →
   ((g ∘e f) ∘e e) ＝ (g ∘e (f ∘e e))
 associative-comp-equiv e f g = eq-equiv-eq-map-equiv refl
+```
+
+#### Unit laws for equivalence composition
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:309]:
```suggestion
#### Unit laws for composition of equivalences
```

File: src/foundation/equivalences.lagda.md [hunk 7]
```diff
@@ -440,15 +318,23 @@ module _
 
   right-unit-law-equiv : (e : X ≃ Y) → (e ∘e id-equiv) ＝ e
   right-unit-law-equiv e = eq-equiv-eq-map-equiv refl
+```
 
+#### Inverse laws for equivalence composition
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:323]:
```suggestion
#### Inverse laws for composition of equivalences
```

File: src/foundation/equivalences.lagda.md [hunk 8]
```diff
@@ -457,21 +343,29 @@ module _
...
       ( inv-equiv)
       ( inv-inv-equiv')
       ( inv-inv-equiv)
 
   equiv-inv-equiv : (X ≃ Y) ≃ (Y ≃ X)
   pr1 equiv-inv-equiv = inv-equiv
   pr2 equiv-inv-equiv = is-equiv-inv-equiv
+```
+
+#### Higher coherence between the unit laws for equivalence composition
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:356]:
```suggestion
#### A coherence law for the unit laws for composition of equivalences
```

File: src/foundation/equivalences.lagda.md [hunk 9]
```diff
@@ -488,51 +382,73 @@ module _
...
+
+#### Iterated inverse laws for equivalence composition
 
-comp-inv-equiv-comp-equiv :
+```agda
+left-left-inverse-law-equiv :
   {l1 l2 l3 : Level} {A : UU l1} {B : UU l2} {C : UU l3}
   (f : B ≃ C) (e : A ≃ B) → (inv-equiv f ∘e (f ∘e e)) ＝ e
-comp-inv-equiv-comp-equiv f e =
+left-left-inverse-law-equiv f e =
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:393]: I don't really understand the rationale behind this name change. The previous name was clearer in my opinion, and I don't think `left-left-inverse-law-equiv` is part of any existing naming scheme.

How about `is-retraction-postcomp-inv-equiv`? This fits in a naming scheme with `is-section-postcomp-inv-equiv`, `is-retraction-precomp-inv-equiv` and `is-section-precomp-inv-equiv`.

File: src/foundation/equivalences.lagda.md [hunk 10]
```diff
@@ -488,51 +382,73 @@ module _
...
+  (f : B ≃ C) (e : B ≃ A) →
+  ((f ∘e inv-equiv e) ∘e e) ＝ f
+right-left-inverse-law-equiv f e =
+  eq-htpy-equiv (λ x → ap (map-equiv f) (is-retraction-map-inv-equiv e x))
+```
+
+### Left and right composition by an equivalence defines equivalences
+
+```agda
+is-equiv-left-comp-equiv :
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:421]: I don't think we should speak of "left composition" and "right composition". The usual terminology is "postcomposition" and "precomposition"

File: src/foundation/equivalences.lagda.md [hunk 11]
```diff
@@ -488,51 +382,73 @@ module _
...
+
+right-left-inverse-law-equiv :
+  {l1 l2 l3 : Level} {A : UU l1} {B : UU l2} {C : UU l3}
+  (f : B ≃ C) (e : B ≃ A) →
+  ((f ∘e inv-equiv e) ∘e e) ＝ f
+right-left-inverse-law-equiv f e =
+  eq-htpy-equiv (λ x → ap (map-equiv f) (is-retraction-map-inv-equiv e x))
+```
+
+### Left and right composition by an equivalence defines equivalences
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:418]:
```suggestion
### The Postcomposition and precomposition operations by an equivalance are equivalences
```

File: src/foundation/equivalences.lagda.md [hunk 12]
```diff
@@ -488,51 +382,73 @@ module _
...
+    ( _∘e inv-equiv e)
+    ( λ f → right-left-inverse-law-equiv f e)
+    ( λ f → right-right-inverse-law-equiv f e)
 
 equiv-postcomp-equiv :
   {l1 l2 l3 : Level} {B : UU l2} {C : UU l3} →
   (f : B ≃ C) → (A : UU l1) → (A ≃ B) ≃ (A ≃ C)
 pr1 (equiv-postcomp-equiv f A) e = f ∘e e
-pr2 (equiv-postcomp-equiv f A) = is-equiv-comp-equiv f A
+pr2 (equiv-postcomp-equiv f A) = is-equiv-left-comp-equiv f A
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:443]: Here it shows that the name is clearly off

File: src/foundation/equivalences.lagda.md (hunk 9 above)
Comment (fredrik-bakke) [reply src/foundation/equivalences.lagda.md:393]: Sure, that sounds like a more reasonable naming scheme. Sorry, this was the first scheme I could think of. I introduced similar lemmas for identification concatenation as well, but I guess preconcat and postconcat make sense too

File: src/foundation/fibered-equivalences.lagda.md [hunk 13]
```diff
@@ -131,8 +132,11 @@ module _
       ( emb-subtype (is-equiv-Prop ∘ pr1))
       ( emb-equiv equiv-Σ-is-equiv-equiv-over)
 
-  map-emb-map-over-equiv-over : equiv-over f g i → map-over f g i
-  map-emb-map-over-equiv-over = map-emb emb-map-over-equiv-over
+  map-map-over-equiv-over : equiv-over f g i → map-over f g i
```
Comment (EgbertRijke) [inline src/foundation/fibered-equivalences.lagda.md:135]: In the previous name I liked that by the prefix `map-emb` it clearly showed the intention that it was the underlying map of an embedding. If we're going to shorten this name, I think I like `map-over-equiv-over` better. We never use `map-abc-xyz` as a naming scheme for maps from `xyz` to `abc`. We'd simply use the name `abc-xyz` for such cases.

File: src/foundation-core/functoriality-function-types.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation-core/functoriality-function-types.lagda.md:268]: I agree. They didn't really fit in `equivalences` either, where I moved them from. Perhaps some file about subuniverses would be better for these theorems

File: src/foundation/fibered-equivalences.lagda.md [hunk 14]
```diff
@@ -218,6 +222,86 @@ module _
 
   map-fibered-map-fibered-equiv : fibered-equiv f g → fibered-map f g
```
Comment (EgbertRijke) [inline src/foundation/fibered-equivalences.lagda.md:223]: In line with my previous comment, this should probably be called `fibered-map-fibered-equiv`

File: src/foundation/functoriality-function-types.lagda.md [hunk 15]
```diff
@@ -25,40 +29,88 @@ open import foundation-core.truncation-levels
...
+      ( is-equiv-postcomp-equiv f A')
+      ( is-equiv-precomp-equiv (inv-equiv e) B)
+
+  equiv-function-type : (A' → B') ≃ (A → B)
+  pr1 equiv-function-type = map-equiv-function-type
+  pr2 equiv-function-type = is-equiv-map-equiv-function-type
 ```
 
-### The precomposition function preserves homotopies
+### A map is truncated iff postcomposition by it is truncated
```
Comment (EgbertRijke) [inline src/foundation/functoriality-function-types.lagda.md:63]: This feels more like something that belongs in the file about truncated maps

File: src/foundation/invertible-maps.lagda.md [hunk 16]
```diff
@@ -0,0 +1,291 @@
...
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : UU l2} {f : A → B}
+  where
+
+  coherence-htpy-is-invertible :
+    (s t : is-invertible f) →
+    map-inv-is-invertible s ~ map-inv-is-invertible t → UU (l1 ⊔ l2)
+  coherence-htpy-is-invertible s t H =
+    ( ( is-retraction-is-invertible s) ~
```
Comment (EgbertRijke) [inline src/foundation/invertible-maps.lagda.md:70]: Actually, there should be `coherence-htpy-is-section` and `coherence-htpy-is-retraction` in the files about sections and retractions, and this definition should be reusing those characterizations of equality.

File: src/foundation/invertible-maps.lagda.md [hunk 17]
```diff
@@ -0,0 +1,291 @@
...
+      ( is-contr-total-htpy (map-invertible-map s))
+      ( map-invertible-map s , refl-htpy)
+      ( is-contr-total-Eq-structure
+        ( λ x z →
+          coherence-htpy-invertible-map s
+            ( map-invertible-map s , x , z)
+            ( refl-htpy))
+        ( is-contr-total-htpy (map-inv-invertible-map s))
+        ( map-inv-invertible-map s , refl-htpy)
+        (is-contr-total-Eq-structure
```
Comment (EgbertRijke) [inline src/foundation/invertible-maps.lagda.md:173]:
```suggestion
        ( is-contr-total-Eq-structure
```

**Comment by fredrik-bakke** [comment]
Thank you for the comments! I will try and address them tomorrow

File: src/foundation/path-algebra.lagda.md [hunk 18]
```diff
@@ -45,7 +45,7 @@ coherences on the boundary 1-paths.
 
 ## Properties
 
-### the unit laws of concatination induce homotopies
+### the unit laws of concatenation induced homotopies
```
Comment (EgbertRijke) [inline src/foundation/path-algebra.lagda.md:48]:
```suggestion
### The unit laws of concatenation induce homotopies
```

Present tense conveys the meaning better.

File: src/foundation/path-algebra.lagda.md [hunk 19]
```diff
@@ -117,30 +117,72 @@ vertical-concat-square {a = a} {f = f}
...
+```
+
+### Iterated inverse laws
+
+```agda
+module _
+  {l : Level} {A : UU l}
+  where
+
+  left-left-inv :
```
Comment (EgbertRijke) [inline src/foundation/path-algebra.lagda.md:171]:
```suggestion
  is-retraction-left-concat-inv :
```

File: src/foundation/path-algebra.lagda.md [hunk 20]
```diff
@@ -117,30 +117,72 @@ vertical-concat-square {a = a} {f = f}
...
+    {x y z : A} (p : x ＝ y) (q : y ＝ z) → (inv p ∙ (p ∙ q)) ＝ q
+  left-left-inv refl q = refl
+
+  left-right-inv :
```
Comment (EgbertRijke) [inline src/foundation/path-algebra.lagda.md:175]:
```suggestion
  is-section-left-concat-inv :
```

File: src/foundation/path-algebra.lagda.md [hunk 21]
```diff
@@ -117,30 +117,72 @@ vertical-concat-square {a = a} {f = f}
...
+    {x y z : A} (p : x ＝ y) (q : x ＝ z) → (p ∙ (inv p ∙ q)) ＝ q
+  left-right-inv refl q = refl
+
+  right-left-inv :
```
Comment (EgbertRijke) [inline src/foundation/path-algebra.lagda.md:179]:
```suggestion
  is-section-right-concat-inv :
```

File: src/foundation/path-algebra.lagda.md [hunk 22]
```diff
@@ -117,30 +117,72 @@ vertical-concat-square {a = a} {f = f}
...
+    {x y z : A} (p : x ＝ y) (q : z ＝ y) → ((p ∙ inv q) ∙ q) ＝ p
+  right-left-inv refl refl = refl
+
+  right-right-inv :
```
Comment (EgbertRijke) [inline src/foundation/path-algebra.lagda.md:183]:
```suggestion
  is-retraction-right-concat-inv :
```

**Review by EgbertRijke — CHANGES_REQUESTED** [review]
There is a lot of good work in this PR. I reviewed 100 files so far, but it is taking my quite long so I leave it here for now.

**Comment by fredrik-bakke** [comment]
Thank you so much! I'm really sorry for making you review so many files. In the other PR, I can revert the naming change of `foundation.transport` to make the size more manageable

File: src/foundation/path-algebra.lagda.md (hunk 19 above)
Comment (EgbertRijke) [reply src/foundation/path-algebra.lagda.md:171]: I'm also fine with `preconcat` and `postconcat` although we don't use those words yet in the library.

File: src/foundation-core/invertible-maps.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/foundation-core/invertible-maps.lagda.md]: I wanted to avoid "predicate", but I guess it won't really cause confusion

File: src/foundation/equivalences.lagda.md (hunk 9 above)
Comment (EgbertRijke) [reply src/foundation/equivalences.lagda.md:393]: Good suggestion! I like this even more than my original suggestion.

File: src/foundation/invertible-maps.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/foundation/invertible-maps.lagda.md:70]: So, homotopies of retractions are defined in terms of homotopies in the coslice. Do you prefer if homotopies of sections are similarly characterized in terms of homotopies in the slice, or do you want an independent definition of homotopies of retractions?

Personally, I find retractions to be a more central notion than homomorphisms in the coslice, so perhaps we can swap directions and define homotopies in the coslice in terms of homotopies of retractions?

Comment (EgbertRijke) [reply src/foundation/invertible-maps.lagda.md:70]: I'm not sure what you have in mind. How would you define homotopies in the coslice as homotopies of retractions?

File: src/foundation/fibered-equivalences.lagda.md (hunk 13 above)
Comment (fredrik-bakke) [reply src/foundation/fibered-equivalences.lagda.md:135]: Since these maps can also be seen as projections, I think I prefer the name `map-over-equiv-over`.

Comment (EgbertRijke) [reply src/foundation/fibered-equivalences.lagda.md:135]: Great! Then we agree that `map-over-equiv-over` is to be preferred over `map-map-over-equiv-over`

File: src/foundation/invertible-maps.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/foundation/invertible-maps.lagda.md:70]:
```agda
module _
  {l1 l2 : Level} {A : UU l1} {B : UU l2} {f : A → B}
  where

  htpy-retraction : retraction f → retraction f → UU (l1 ⊔ l2)
  htpy-retraction = htpy-hom-coslice
```

Comment (fredrik-bakke) [reply src/foundation/invertible-maps.lagda.md:70]: Ah, I guess the other way around doesn't really make sense. Sorry, I'm writing to you while attending a lecture

Comment (EgbertRijke) [reply src/foundation/invertible-maps.lagda.md:70]: That's defining `htpy-retraction` in terms of `htpy-hom-coslice`. I understand this direction, but I thought you were suggesting the other direction, i.e., defining `htpy-hom-coslice` in terms of `htpy-retraction`.

Comment (EgbertRijke) [reply src/foundation/invertible-maps.lagda.md:70]: Must be an interesting lecture:)

Comment (fredrik-bakke) [reply src/foundation/invertible-maps.lagda.md:70]: My apologies, I am just wrong. So do you want `htpy-section` defined in terms of `htpy-hom-slice`, or to have independent definitions for both sections and retractions?

Comment (fredrik-bakke) [reply src/foundation/invertible-maps.lagda.md:70]: I think it is, I'm just too stupid to follow it

Comment (EgbertRijke) [reply src/foundation/invertible-maps.lagda.md:70]: I would not be very sure if that isn't going to create cyclic dependencies. In my above comment I was just suggesting to reuse the characterization of identity types of sections in the characterization of identity types of invertible maps. That would require factoring out `coherence-htpy-section` from the definition of `htpy-section`, but once that is done it can be reused in the definition of `coherence-htpy-is-invertible`. 

So I think I'm suggesting something simpler, but indeed it is also possible to do it in terms of `htpy-hom-coslice`. If that goes through I would be happy with that idea as well.

Comment (fredrik-bakke) [reply src/foundation/invertible-maps.lagda.md:70]: Okay, I will have to look into this another day

File: src/foundation/fibered-equivalences.lagda.md [hunk 23]
```diff
@@ -131,8 +132,11 @@ module _
       ( emb-subtype (is-equiv-Prop ∘ pr1))
       ( emb-equiv equiv-Σ-is-equiv-equiv-over)
 
-  map-emb-map-over-equiv-over : equiv-over f g i → map-over f g i
-  map-emb-map-over-equiv-over = map-emb emb-map-over-equiv-over
+  map-over-equiv-over : equiv-over f g i → map-over f g i
+  map-over-equiv-over = map-emb emb-map-over-equiv-over
+
+  is-emb-map-over-equiv-over : is-emb map-over-equiv-over
+  is-emb-map-over-equiv-over = is-emb-map-emb emb-map-over-equiv-over
```
Comment (EgbertRijke) [inline src/foundation/fibered-equivalences.lagda.md:139]: It would be reasonable to also include `emb-map-over-equiv-over` below, for the embedding.

File: src/foundation/fibered-equivalences.lagda.md [hunk 24]
```diff
@@ -216,8 +220,88 @@ module _
       ( emb-subtype is-fibered-equiv-fibered-map-Prop)
       ( emb-equiv equiv-Σ-is-fibered-equiv-fibered-map-fibered-equiv)
 
-  map-fibered-map-fibered-equiv : fibered-equiv f g → fibered-map f g
-  map-fibered-map-fibered-equiv = map-emb emb-fibered-map-fibered-equiv
+  fibered-map-fibered-equiv : fibered-equiv f g → fibered-map f g
+  fibered-map-fibered-equiv = map-emb emb-fibered-map-fibered-equiv
+
+  is-emb-fibered-map-fibered-equiv : is-emb fibered-map-fibered-equiv
```
Comment (EgbertRijke) [inline src/foundation/fibered-equivalences.lagda.md:226]: You could also include `emb-fibered-map-fibered-equiv` below

File: src/foundation/fibered-equivalences.lagda.md [hunk 25]
```diff
@@ -216,8 +220,88 @@ module _
...
+      ( map-over-equiv-over f g i e)
+      ( map-over-equiv-over f g i e'))
+  htpy-eq-equiv-over e e' = map-equiv (extensionality-equiv-over e e')
+
+  eq-htpy-equiv-over :
+    (e e' : equiv-over f g i) →
+    ( htpy-map-over f g i
+      ( map-over-equiv-over f g i e)
+      ( map-over-equiv-over f g i e')) →
+    ( e ＝ e')
```
Comment (EgbertRijke) [inline src/foundation/fibered-equivalences.lagda.md:265]:
```suggestion
    htpy-map-over f g i
      ( map-over-equiv-over f g i e)
      ( map-over-equiv-over f g i e') →
    e ＝ e'
```

File: src/foundation/fibered-equivalences.lagda.md [hunk 26]
```diff
@@ -216,8 +220,88 @@ module _
...
+    (e e' : fibered-equiv f g) →
+    ( e ＝ e') ≃
+    ( htpy-fibered-map f g
+      ( fibered-map-fibered-equiv f g e)
+      ( fibered-map-fibered-equiv f g e'))
+  extensionality-fibered-equiv e e' =
+    ( extensionality-fibered-map f g
+      ( fibered-map-fibered-equiv f g e)
+      ( fibered-map-fibered-equiv f g e')) ∘e
+    ( ap (fibered-map-fibered-equiv f g) ,
```
Comment (EgbertRijke) [inline src/foundation/fibered-equivalences.lagda.md:287]: This could be `equiv-ap-emb (emb-fibered-map-fibered-equiv f g)` instead of the explicit pair, if you would define `emb-fibered-map-fibered-equiv`. That would slightly simplify this proof term, because having an explicit pair looks odd here.

File: src/foundation/fibered-equivalences.lagda.md [hunk 27]
```diff
@@ -216,8 +220,88 @@ module _
...
+      ( fibered-map-fibered-equiv f g e)
+      ( fibered-map-fibered-equiv f g e'))
+  htpy-eq-fibered-equiv e e' = map-equiv (extensionality-fibered-equiv e e')
+
+  eq-htpy-fibered-equiv :
+    (e e' : fibered-equiv f g) →
+    ( htpy-fibered-map f g
+      ( fibered-map-fibered-equiv f g e)
+      ( fibered-map-fibered-equiv f g e')) →
+    ( e ＝ e')
```
Comment (EgbertRijke) [inline src/foundation/fibered-equivalences.lagda.md:303]:
```suggestion
    htpy-fibered-map f g
      ( fibered-map-fibered-equiv f g e)
      ( fibered-map-fibered-equiv f g e') →
    e ＝ e'
```

File: src/foundation/path-algebra.lagda.md [hunk 28]
```diff
@@ -117,30 +117,72 @@ vertical-concat-square {a = a} {f = f}
...
+    {x y z : A} (p : x ＝ y) (q : y ＝ z) →
+    assoc p refl q ＝ ap (_∙ q) (right-unit)
+  assoc-middle-refl refl q = refl
+
+  assoc-right-refl :
+    {x y z : A} (p : x ＝ y) (q : y ＝ z) →
+    assoc p q refl ＝ (right-unit ∙ ap (p ∙_) (inv right-unit))
+  assoc-right-refl refl refl = refl
+
+  unit-law-assoc-101' :
```
Comment (EgbertRijke) [inline src/foundation/path-algebra.lagda.md:139]: It feels odd to have half a naming scheme `assoc-[left/middle/right]-refl` and half a naming scheme `unit-law-assoc-xxx`. At least it was more consistent previously.

File: src/foundation/logical-equivalences.lagda.md [hunk 29]
```diff
@@ -63,13 +192,55 @@ pr1 (equiv-equiv-iff P Q) = equiv-iff' P Q
...
-  {l1 l2 : Level} (P : Prop l1) (Q : Prop l2) → is-prop (P ⇔ Q)
-is-prop-logical-equivalence P Q =
-  is-prop-prod
-    ( is-prop-function-type (is-prop-type-Prop Q))
-    ( is-prop-function-type (is-prop-type-Prop P))
+module _
+  {l1 l2 l3 l4 : Level} {I : UU l1} {J : UU l2} {A : I → UU l3} {B : J → UU l4}
+  where
+
+  iff-Π :
```
Comment (EgbertRijke) [inline src/foundation/logical-equivalences.lagda.md:202]: The specification of this operation looks a little strange to me, and I'm not convinced it is in its most useful form. Could you explain why you gave it this specification?

File: src/orthogonal-factorization-systems/extensions-of-maps.lagda.md [hunk 30]
```diff
@@ -365,25 +376,25 @@ module _
   equiv-fib-precomp-extension-Π f =
     (equiv-fib'-precomp-extension-Π f) ∘e (equiv-fib (precomp-Π i P) f)
 
-  equiv-is-contr-extension-Π-is-local-family :
-    is-local-family i P ≃
+  equiv-is-contr-extension-Π-is-local-Π :
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/extensions-of-maps.lagda.md:379]: What was wrong with the terminology `is-local-family`?

File: src/foundation/logical-equivalences.lagda.md (hunk 29 above)
Comment (fredrik-bakke) [reply src/foundation/logical-equivalences.lagda.md:202]: The idea here was to mimic `equiv-Pi` if I recall correctly

File: src/orthogonal-factorization-systems/local-types.lagda.md [hunk 31]
```diff
@@ -53,11 +51,11 @@ module _
   {l1 l2 : Level} {Y : UU l1} {X : UU l2} (f : Y → X)
   where
 
-  is-local-family : {l : Level} → (X → UU l) → UU (l1 ⊔ l2 ⊔ l)
-  is-local-family A = is-equiv (precomp-Π f A)
+  is-local-Π : {l : Level} → (X → UU l) → UU (l1 ⊔ l2 ⊔ l)
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/local-types.lagda.md:54]: Given how we name things in agda-unimath, `is-local-Π` reads like the property that a dependent function type is local. That is not what is asserted here, so the name `is-local-Π` doesn't look right to me.

Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/local-types.lagda.md:54]: I agree, I just didn't come up with a better name. Originally it was called `is-local'` I believe. Maybe the best name would be `is-local-dependent-type`. (Then we should make a similar renaming for extension types)

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md [hunk 32]
```diff
@@ -99,26 +189,57 @@ module _
...
-      ( postcomp A g)
-      ( precomp f' Y')
-      ( postcomp A' g')
+    map-is-pullback
+      ( precomp f Y) (postcomp A g)
+      ( precomp f' Y') (postcomp A' g')
+      ( cone-pullback-hom f g)
+      ( cone-pullback-hom f' g')
+      ( is-pullback-fibered-map f g)
+      ( is-pullback-fibered-map f' g')
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/pullback-hom.lagda.md:203]:
```suggestion
    map-is-pullback
      ( precomp f Y)
      ( postcomp A g)
      ( precomp f' Y')
      ( postcomp A' g')
      ( cone-pullback-hom f g)
      ( cone-pullback-hom f' g')
      ( is-pullback-fibered-map f g)
      ( is-pullback-fibered-map f' g')
```

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md [hunk 33]
```diff
@@ -99,26 +189,57 @@ module _
   where
 
   map-pullback-hom :
-      hom-cospan (precomp f' Y') (postcomp A' g') (precomp f Y) (postcomp A g) →
-      type-pullback-hom f' g' → type-pullback-hom f g
+    hom-cospan
+      ( precomp f' Y') (postcomp A' g')
+      ( precomp f Y) (postcomp A g) →
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/pullback-hom.lagda.md:194]:
```suggestion
    hom-cospan
      ( precomp f' Y')
      ( postcomp A' g')
      ( precomp f Y)
      ( postcomp A g) →
```

File: src/foundation/fibered-equivalences.lagda.md (hunk 26 above)
Comment (fredrik-bakke) [reply src/foundation/fibered-equivalences.lagda.md:287]: That's nice. Thanks for the tip!

File: src/foundation/path-algebra.lagda.md (hunk 28 above)
Comment (fredrik-bakke) [reply src/foundation/path-algebra.lagda.md:139]: I agree, I just didn't want to touch the old stuff. To be honest I want to remove it

File: src/orthogonal-factorization-systems/local-maps.lagda.md [hunk 34]
```diff
@@ -0,0 +1,103 @@
...
+
+  is-local-map-Prop :
+    {l3 l4 : Level} {A : UU l3} {B : UU l4}
+    (g : A → B) → Prop (l1 ⊔ l2 ⊔ l3 ⊔ l4)
+  is-local-map-Prop g = is-local-family-Prop (fib g)
+```
+
+### A type `B` is `f`-local if and only if the terminal projection `B → unit` is `f`-local
+
+This remains to be formalized.
```
Comment (EgbertRijke) [inline src/orthogonal-factorization-systems/local-maps.lagda.md:94]: We should start the habit of opening issues for this:)

**Comment by EgbertRijke** [comment]
I reviewed all the files now. If we address all the issues, this PR will be ready to be merged. Thanks for doing all this work!

File: src/foundation/path-algebra.lagda.md (hunk 28 above)
Comment (EgbertRijke) [reply src/foundation/path-algebra.lagda.md:139]: Such laws are actually coming up in A2-spaces. I don't think they should be removed.

**Comment by fredrik-bakke** [comment]
Great! I'll address the remaining ones as soon as I have time. Thanks again for taking the time

File: src/foundation/logical-equivalences.lagda.md (hunk 29 above)
Comment (EgbertRijke) [reply src/foundation/logical-equivalences.lagda.md:202]: The problem is that with logical equivalences, there are a lot more nonequivalent ways to construct equivalences between Pi-types. I don't think it is clear that this is the preferred/canonical choice. With equivalences, things are a bit more restrictive because you have a 1-1 correspondence between elements of the domain and codomain.

I also wonder if this form of `iff-Π` is actually used somewhere. I don't recall seeing it showing up in this PR, but I might just have missed it. If there are no uses for `iff-Π` then I might have a preference to rename `iff-Π-iff-fam` back to `iff-Π` because that one actually sees some use.

File: src/orthogonal-factorization-systems/local-maps.lagda.md (hunk 34 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/local-maps.lagda.md:94]: That's actually not a terribly bad idea! We'll generate a lot of good first issues this way, and it might also give a hint as to what people are working on/interested in

Comment (EgbertRijke) [reply src/orthogonal-factorization-systems/local-maps.lagda.md:94]: I always thought that "good first issue" means that it is a good issue and it is the first issue from a new contributor. But now you seem to say that it is more like a good first task to work on for a new contributor. Perhaps we should have a clearer label than "good first issue" because to be honest I thought about removing that label altogether because I thought it was so useless:)

Comment (EgbertRijke) [reply src/orthogonal-factorization-systems/local-maps.lagda.md:94]: Is there also a way to link back to issues in agda-unimath website? Then we could mention that in those "remains to be formalized" remarks.

Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/local-maps.lagda.md:94]: > I always thought that "good first issue" means that it is a good issue and it is the first issue from a new contributor. But now you seem to say that it is more like a good first task to work on for a new contributor. Perhaps we should have a clearer label than "good first issue" because to be honest I thought about removing that label altogether because I thought it was so useless:)

Oh, haha, the latter is the generally accepted meaning I think. 😅 I've been a bit sloppy with how I use it, so sorry if that's caused further confusion. What do you propose instead? Something like `newcomer friendly`? For what it's worth,  I do believe `good first issue` is pretty widely used.

Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/local-maps.lagda.md:94]: Appending `[#xyz](link)` should suffice

File: src/foundation/logical-equivalences.lagda.md (hunk 29 above)
Comment (fredrik-bakke) [reply src/foundation/logical-equivalences.lagda.md:202]: So, just to make sure. The definition `iff-Π-iff-fam` imitates `equiv-Π-equiv-fam`. Do you want to break this pattern as well? I understand that logical equivalences and equivalences are very different notions, but still, given its name and usage, I was under the impression that it should imitate equivalences. The principle I was following when making these changes was that every construction in logical equivalences with a corresponding construction in equivalences is mapped to it under `iff-equiv`.

File: src/foundation/fibered-equivalences.lagda.md (hunk 23 above)
Comment (fredrik-bakke) [reply src/foundation/fibered-equivalences.lagda.md:139]: This is defined 10 lines further up.

File: src/foundation/fibered-equivalences.lagda.md (hunk 24 above)
Comment (fredrik-bakke) [reply src/foundation/fibered-equivalences.lagda.md:226]: This is defined 9 lines further up.

File: src/foundation/path-algebra.lagda.md (hunk 28 above)
Comment (fredrik-bakke) [reply src/foundation/path-algebra.lagda.md]: Alright, how do you feel about the current names? I don't like that `transpose-assoc-middle-refl` introduces a new naming scheme, but I didn't find the alternative `assoc-middle-refl'` to be much better.

Comment (fredrik-bakke) [reply src/foundation/path-algebra.lagda.md]: Also, I just realized that the `con` in `inv-con` stands for concatenation. However, we don't use the abbreviation `con` for concatenation anywhere else (`(?<!inv-)\bcon\b(?!-inv)`). Perhaps we can give `inv-con` and `con-inv` new names? Something like `left-transpose` and `right-transpose`

Comment (EgbertRijke) [reply src/foundation/path-algebra.lagda.md]: I agree, but please in another PR that is just for that purpose.

Comment (EgbertRijke) [reply src/foundation/path-algebra.lagda.md]: I still like to call them unit laws for associators, and I don't see why it is a good idea to give that up. It aligns well with unit laws for binary operations, and to me there is no reason why multivariable operators such as associators shouldn't have unit laws. But I like your [left/middle/right], so my preferred naming would be `[left/middle/right]-unit-law-assoc`.

Comment (EgbertRijke) [reply src/foundation/path-algebra.lagda.md]: But actually the point with the binary number notation had a purpose. Actually there are 7 unit laws for the associator: Three of them have refl in one of the arguments, 3 of them have refl in two of the arguments, and one of them is a coherence that puts them all together and it has refl in all three of the arguments. The old naming scheme was supposed to make naming the other 4 unit laws (or coherences) easy to name.

Comment (EgbertRijke) [reply src/foundation/path-algebra.lagda.md]: With the pentagonator there will be 15 unit laws. More generally, n-ary operations may have 2^n -1 unit laws.

Comment (fredrik-bakke) [reply src/foundation/path-algebra.lagda.md]: The binary numbering scheme makes sense to me. However, currently, there are 6 unit laws recorded for the associator where only one of the arguments is reflexivity, not just 3. The general naming scheme seems to have been to just append primes for different variants of the same unit law. It makes sense that there are more unit laws for some of the positions since concatenation computes on the left and not on the right, but I don't see the pattern for which variant has fewer primes than the other. In particular, I have a problem with what was defined as "the" right unit law. What previously had the name `unit-law-assoc-110` I expected to have type `assoc p q refl ＝ ...`. However, instead, it was an equality of type `(assoc p q refl ∙ ap (concat p z) right-unit) ＝ ...`, and the unit law that I was looking for was not recorded at all.

Comment (EgbertRijke) [reply src/foundation/path-algebra.lagda.md]: That's perhaps because I transposed them in order to state them free of inverses.

Comment (EgbertRijke) [reply src/foundation/path-algebra.lagda.md]: Probably the reason I did that was because then it will be easier to state the coherences between them (with refl twice or three times in the arguments of assoc)

Comment (EgbertRijke) [reply src/foundation/path-algebra.lagda.md]: When it would have been stated using `coherence-triangle-identifications` it would have been clearer, because `assoc p q refl` would just be one of the sides of the triangle.

Comment (fredrik-bakke) [reply src/foundation/path-algebra.lagda.md]: Ah, okay, that makes sense. So then maybe it _is_ a good idea to use two different naming schemes. One for the collection of unit laws and their coherences, and one for computing with the associator.

Comment (EgbertRijke) [reply src/foundation/path-algebra.lagda.md]: Lol, but then we would both win

Comment (EgbertRijke) [reply src/foundation/path-algebra.lagda.md]: Anyway, that sounds good. Perhaps keep then near each other and add a short explanation of what is going on.

Comment (fredrik-bakke) [reply src/foundation/path-algebra.lagda.md]: Oh, shoot, we can't have that

Comment (fredrik-bakke) [reply src/foundation/path-algebra.lagda.md]: Yep, sounds good!

File: src/foundation/logical-equivalences.lagda.md (hunk 29 above)
Comment (EgbertRijke) [reply src/foundation/logical-equivalences.lagda.md]: Is `equiv-Π-equiv-fam` the same as `equiv-map-Π`?

Comment (fredrik-bakke) [reply src/foundation/logical-equivalences.lagda.md]: Ohh, whoops, I see I reverted that change. Sorry for the confusion. Then perhaps `iff-Π-iff-fam` should be named `iff-map-Π`?

Comment (EgbertRijke) [reply src/foundation/logical-equivalences.lagda.md]: How about `equiv-Π-family-of-equivalences` and `iff-Π-family-of-logical-equivalences`? We also spell out "family of elements" elsewhere in the library, and I think it reads better than `equiv-fam`. The old name `equiv-map-Π` also doesn't seem quite right to me.

Comment (fredrik-bakke) [reply src/foundation/logical-equivalences.lagda.md]: I think I prefer `equiv-Π-equiv-family`. I don't like how your suggestions seem to use two different names for the same notions. E.g. `equiv` and `equivalence`, and `iff` and `logical-equivalence`. Moreover, the `-of-` binding in definition names doesn't seem to fit too well with our general naming scheme.

File: src/orthogonal-factorization-systems/local-maps.lagda.md (hunk 34 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/local-maps.lagda.md:79]: If it is okay with you, I will create issues for empty sections like this in a separate PR.

Comment (EgbertRijke) [reply src/orthogonal-factorization-systems/local-maps.lagda.md:79]: Sure!

File: src/foundation/logical-equivalences.lagda.md (hunk 29 above)
Comment (EgbertRijke) [reply src/foundation/logical-equivalences.lagda.md]: We should probably define `equiv-family` somewhere, so that `equiv-Π-equiv-family` reads as the function that takes an element of type `equiv-family` to an equivalence of dependent function types.

Comment (EgbertRijke) [reply src/foundation/logical-equivalences.lagda.md]: Also, I think we already have `is-family-of-equivalences`

Comment (VojtechStep) [reply src/foundation/logical-equivalences.lagda.md]: > We should probably define equiv-family somewhere

If by that you mean give a name to `(x :  X) -> A x ≃ B x` the you're in luck, because it's not only already defined, it's even defined twice 😃. Once in univalence (`equiv-fam`) and once in equivalences (`fam-equiv`).

Comment (EgbertRijke) [reply src/foundation/logical-equivalences.lagda.md]: Lol! Thanks for spotting that. It should probably go in a separate file called `families of equivalences`, and then we can have the definition of `is-family-of-equivalences` there too.

Comment (fredrik-bakke) [reply src/foundation/logical-equivalences.lagda.md]: I hope you are not expecting me to do that as part of this PR

Comment (EgbertRijke) [reply src/foundation/logical-equivalences.lagda.md]: Sure, let me create an issue then.

File: src/foundation/slice.lagda.md [hunk 35]
```diff
@@ -67,7 +68,7 @@ module _
 
   triangle-hom-slice :
     (f : A → X) (g : B → X) (h : hom-slice f g) →
-    f ~ (g ∘ (map-hom-slice f g h))
+    f ~ (g ∘ map-hom-slice f g h)
```
Comment (EgbertRijke) [inline src/foundation/slice.lagda.md:71]: And that last set of parentheses isn't needed anymore either:) Do we want to omit them in general, or do you prefer these homotopies to be stated with parentheses?

Comment (fredrik-bakke) [reply src/foundation/slice.lagda.md:71]: I think in cases like this we can omit the parentheses

File: src/foundation-core/functoriality-function-types.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation-core/functoriality-function-types.lagda.md:268]: Would it make sense to move these corollaries and the main theorem to its own file? I'm struggling to find anywhere natural to place them that doesn't introduce cyclic dependencies. If so, what should the file be called?

Comment (fredrik-bakke) [reply src/foundation-core/functoriality-function-types.lagda.md:268]: Placing it in subuniverses didn't really make sense to me, unless every corollary is placed elsewhere.

File: src/foundation/functoriality-function-types.lagda.md (hunk 15 above)
Comment (fredrik-bakke) [reply src/foundation/functoriality-function-types.lagda.md:63]: I'm struggling to find a place to put this that doesn't introduce cyclic dependencies, and this is taking a lot of my time. Is it okay if we leave it here for now?

Comment (fredrik-bakke) [reply src/foundation/functoriality-function-types.lagda.md:63]: Maybe a passable argument for keeping it here for the moment is that truncated maps is a generalization of equivalences, and this theorem for equivalences is something that belongs naturally in this file? 🙃

File: src/foundation-core/functoriality-function-types.lagda.md (hunk 1 above)
Comment (EgbertRijke) [reply src/foundation-core/functoriality-function-types.lagda.md:268]: I guess one can argue that even though these corollaries mention the universe of propositions, the universe of sets, and the universe of truncated types, they are still about the functoriality of Pi-types. Perhaps it is ok to have them here.

Comment (EgbertRijke) [reply src/foundation-core/functoriality-function-types.lagda.md:268]: The other option would be to have separate files for `precomposition-dependent-functions` and `postcomposition-dependent-functions`, but this would require some thought before we start doing that. For example, is it really sensible?

In `functoriality-dependent-function-types` we currently deal with precomposition, postcomposition, and two-sided composition. If we would make a split, would we also want to split the `functoriality-function-types` files? Can we make this split on conceptual grounds?

Comment (fredrik-bakke) [reply src/foundation-core/functoriality-function-types.lagda.md:268]: I would hope that wouldn't be necessary, but let me think about it a little. Can we perhaps merge this PR and rather make further changes to this when the need arises again?

Comment (fredrik-bakke) [reply src/foundation-core/functoriality-function-types.lagda.md:268]: Or a better solution is found

Comment (EgbertRijke) [reply src/foundation-core/functoriality-function-types.lagda.md:268]: Let's at least agree that it is not necessary for this PR. But every time I've factored out an operation from a larger file into its own I've actually been happy with the result, and I could see that happening here too. So I think it's worth some consideration whether we want files for post and precomposition.

File: src/foundation/functoriality-function-types.lagda.md (hunk 15 above)
Comment (EgbertRijke) [reply src/foundation/functoriality-function-types.lagda.md:63]: Yeah, let's keep it here.

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 36]
```diff
@@ -48,30 +49,46 @@ module _
...
-  inv-is-coherently-invertible : is-coherently-invertible f → B → A
-  inv-is-coherently-invertible = pr1
+  map-inv-is-coherently-invertible : B → A
+  map-inv-is-coherently-invertible = pr1 H
 
-  is-section-inv-is-coherently-invertible :
-    (H : is-coherently-invertible f) → (f ∘ inv-is-coherently-invertible H) ~ id
-  is-section-inv-is-coherently-invertible H = pr1 (pr2 H)
+  is-retraction-is-coherently-invertible :
+    (f ∘ map-inv-is-coherently-invertible) ~ id
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:63]:
```suggestion
    f ∘ map-inv-is-coherently-invertible ~ id
```

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 37]
```diff
@@ -48,30 +49,46 @@ module _
...
+  is-retraction-is-coherently-invertible = pr1 (pr2 H)
 
-  is-retraction-inv-is-coherently-invertible :
-    (H : is-coherently-invertible f) → (inv-is-coherently-invertible H ∘ f) ~ id
-  is-retraction-inv-is-coherently-invertible H = pr1 (pr2 (pr2 H))
+  is-section-is-coherently-invertible :
+    (map-inv-is-coherently-invertible ∘ f) ~ id
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:67]:
```suggestion
    map-inv-is-coherently-invertible ∘ f ~ id
```

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 38]
```diff
@@ -97,51 +114,60 @@ module _
...
-      ( H : has-inverse f) →
-      ( is-section-inv-has-inverse H ·r f) ~
-      ( f ·l is-retraction-inv-has-inverse H)
-    coherence-inv-has-inverse H x =
+    is-section-map-inv-is-invertible :
+      (H : is-invertible f) → (f ∘ map-inv-is-invertible H) ~ id
+    is-section-map-inv-is-invertible H y =
+      ( inv (is-retraction-is-invertible H (f (map-inv-is-invertible H y)))) ∙
+      ( ( ap f (is-section-is-invertible H (map-inv-is-invertible H y))) ∙
+        ( is-retraction-is-invertible H y))
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:123]:
```suggestion
      ( inv (is-retraction-is-invertible H (f (map-inv-is-invertible H y)))) ∙
      ( ap f (is-section-is-invertible H (map-inv-is-invertible H y))) ∙
      ( is-retraction-is-invertible H y)
```

File: src/foundation-core/coherently-invertible-maps.lagda.md (hunk 36 above)
Comment (fredrik-bakke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:63]: Already reaping benefits from #712 😊

File: src/foundation-core/coherently-invertible-maps.lagda.md (hunk 38 above)
Comment (fredrik-bakke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:123]: turns out it didn't type check with this change

**Review by EgbertRijke — APPROVED** [review]

**Comment by EgbertRijke** [comment]
Looks good! I went over it one more time, and I'm happy to hit that green button again:)

File: src/foundation-core/coherently-invertible-maps.lagda.md (hunk 38 above)
Comment (EgbertRijke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:123]: Ah, sorry! My bad

File: src/foundation-core/coherently-invertible-maps.lagda.md (hunk 36 above)
Comment (EgbertRijke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:63]: Oh yes!

**Comment by fredrik-bakke** [comment]
Thanks for all the discussions! I'm sorry not everything could be resolved. Still, I think this PR introduces some good improvements overall

**Comment by EgbertRijke** [comment]
They're definitely improvements! Maybe things are not yet ready to be printed on t-shirts, but hey, you made it better than it was before!

**Comment by EgbertRijke** [comment]
Brr some error again

**Comment by fredrik-bakke** [comment]
working on it

**Comment by fredrik-bakke** [comment]
Some definitions had randomly disappeared in the merging process. Git isn't always perfect when it comes to this.

**Comment by EgbertRijke** [comment]
That's the first time I hear of such a bug. Quite a bad one!

**Comment by fredrik-bakke** [comment]
I guess it is also possible that I wasn't paying enough attention at some point 😅

File: src/foundation/homotopies.lagda.md [hunk 39]
```diff
@@ -222,6 +222,24 @@ module _
   equiv-right-transpose-htpy-concat : ((H ∙h K) ~ L) ≃ (H ~ (L ∙h (inv-htpy K)))
   pr1 equiv-right-transpose-htpy-concat = right-transpose-htpy-concat H K L
   pr2 equiv-right-transpose-htpy-concat = is-equiv-right-transpose-htpy-concat
+
+module _
+  {l1 l2 : Level} {A : UU l1} {B : A → UU l2} {f g h : (x : A) → B x}
+  (H : f ~ h) (K : f ~ g) (L : g ~ h)
+  where
+
+  equiv-left-transpose-htpy-concat' : (H ~ (K ∙h L)) ≃ (((inv-htpy K) ∙h H) ~ L)
```
Comment (EgbertRijke) [inline src/foundation/homotopies.lagda.md:231]: Doesn't this line have way too many parentheses?

Comment (EgbertRijke) [reply src/foundation/homotopies.lagda.md:231]: I see 3 pairs that can be removed:)

File: src/foundation/homotopies.lagda.md [hunk 40]
```diff
@@ -222,6 +222,24 @@ module _
...
+  equiv-left-transpose-htpy-concat' =
+    ( equiv-inv-htpy L ((inv-htpy K) ∙h H)) ∘e
+    ( equiv-left-transpose-htpy-concat K L H) ∘e
+    ( equiv-inv-htpy H (K ∙h L))
+
+  equiv-right-transpose-htpy-concat' :
+    (H ~ (K ∙h L)) ≃ ((H ∙h (inv-htpy L)) ~ K)
```
Comment (EgbertRijke) [inline src/foundation/homotopies.lagda.md:238]: Same here

**Comment by fredrik-bakke** [comment]
Sorry, I had only restored what was there before.

**Comment by EgbertRijke** [comment]
Great! Let's see if the checks will be done before I find something else that can be changed XD

**Comment by fredrik-bakke** [comment]
I'm glad you're eager about the new operator system, but let's save it for newer PRs :)

**Comment by fredrik-bakke** [comment]
😂 @EgbertRijke

**Comment by EgbertRijke** [comment]
What's up?:)
